US08283353B2
4-(1-ethylpiperidin-4-yl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of hydroxylammonium chloride (313 mg), sodium hydrogen carbonate (504 mg) and dimethyl sulfoxide (3 mL) was stirred at 60° C. for 30 min, a solution of 4′-{[4-(1-ethylpiperidin-4-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (145 mg) in dimethyl sulfoxide (2 mL) was added, and the mixture was stirred at 90° C. for 17 hr. The reaction mixture was diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was dissolved in tetrahydrofuran (10 mL). N,N′-Carbonyldiimidazole (58 mg) and then 1,8-diazabicyclo[5.4.0]undec-7-ene (55 mg) were added, and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous potassium hydrogensulfate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: methanol/ethyl acetate=10/90→30/70 (volume ratio)] and crystallized from acetonitrile to give the title compound as colorless crystals (57 mg, 35%).

reactant | hydroxylammonium chloride | 313 mg | [Cl-].O[NH3+]
reactant | sodium hydrogen carbonate | 504 mg | C(O)([O-])=O.[Na+]
reactant | 4′-{[4-(1-ethylpiperidin-4-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 145 mg | C(C)N1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C29H32N6O
solvent | dimethyl sulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 3 mL | CS(=O)C | C2H6OS
product | 4-(1-ethylpiperidin-4-yl)-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 57 mg, 35% | C(C)N1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)CCC)N=CN2 | C30H33N7O3
